US09376454B2
Step 5. Synthesis of benzyl 5-allylisoindoline-2-carboxylate
To a mixture of benzyl 5-bromoisoindoline-2-carboxylate (332 mg, 1 mmol), tetrakistriphenylphosphine palladium (0) (80 mg, 0.07 mmol), and cesium fluoride (604 mg, 4 mmol) was added THF (7 mL). The system was degassed and flushed with argon. To this mixture was added allyl boronic acid pinacol ester (285 μL, 1.5 mmol). The resulting mixture was heated to 72° C. and stirred at this temperature for 4 hr then cooled to room temperature. The mixture was diluted with ethyl acetate, washed with brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by silica chromatography (25 g silica eluted with 3-40% ethyl acetate in hexane) to give the title compound as a white solid.

reactant | benzyl 5-bromoisoindoline-2-carboxylate | 1 mmol, 332 mg | BrC=1C=C2CN(CC2=CC1)C(=O)OCC1=CC=CC=C1 | C16H14BrNO2
reactant | cesium fluoride | 4 mmol, 604 mg | [F-].[Cs+]
reactant | THF | 7 mL | C1CCOC1 | C4H8O
reactant | allyl boronic acid pinacol ester | 1.5 mmol, 285 μL | C(C=C)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 5-allylisoindoline-2-carboxylate | C(C=C)C=1C=C2CN(CC2=CC1)C(=O)OCC1=CC=CC=C1 | C19H19NO2
